US06448290B1
Methyl 4-(3-Nitro-5-trifluoromethylpyridine-2-yloxymethyl)benzoate
To a solution of 2-hydroxy-3-nitro-5-trifluoromethylpyridine (1.0 g) in toluene (10 ml), methyl 4-chloromethylbenzoate (1.32 g) and silver oxide (1.23 g) were added in a stream of argon. The mixture was refluxed for 18 hours with heating. The reaction mixture was filtered. The filtrate was concentrated. The residue was recrystallized from ethyl acetate to give the title compound (982 mg) having the following physical data.

reactant | 2-hydroxy-3-nitro-5-trifluoromethylpyridine | 1.0 g | OC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H3F3N2O3
reactant | methyl 4-chloromethylbenzoate | 1.32 g | ClCC1=CC=C(C(=O)OC)C=C1 | C9H9ClO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver oxide | 1.23 g | [Ag]=O
product | Methyl 4-(3-Nitro-5-trifluoromethylpyridine-2-yloxymethyl)benzoate | 982 mg | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)OCC1=CC=C(C(=O)OC)C=C1 | C15H11F3N2O5
